US05395752
A mixture of acridine-9-carboxylic acid hydrochloride (74 mg, 0.33 mmol) in thionyl chloride (3 ml, 41.1 mmol) was refluxed at 110° C. under nitrogen for 2 hours. After cooling, the solution was evaporated under reduced pressure to dryness. The solid was washed with anhydrous diethyl ether (5 ml) to give acridine-9-carbonyl chloride hydrochloride. This acid chloride was dissolved in anhydrous pyridine (4 ml), followed by addition of benzyl 3,5-diisopropyl-4-hydroxy-benzoate (102 mg, 0.33 mmol) and 4-N,N-dimethylamino-pyridine (16 mg, 0.13 mmol). After 16 hours of stirring at 25° C. under nitrogen, the solution was evaporated under reduced pressure to dryness. The residue was purified on a Chromatotron plate (1 mm silica gel) by elution with 20% diethyl ether/hexane to yield (4 -benzyloxycarbonyl-2,6-diisopropyl)phenyl acridine-9-carboxylate (64 mg, 38%). Rf 0.6 (silica gel, 20% ethyl acetate/toluene). MS(EI): m/z 517(M).

reactant | acridine-9-carboxylic acid hydrochloride | 0.33 mmol, 74 mg | Cl.C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)O
reactant | thionyl chloride | 41.1 mmol, 3 ml | S(=O)(Cl)Cl | Cl2OS
product | acridine-9-carbonyl chloride hydrochloride | Cl.C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)Cl | InChI=1S/C14H8ClNO.ClH/c15-14(17)13-9-5-1-3-7-11(9)16-12-8-4-2-6-10(12)13;/h1-8H;1H
